Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
morphine / codeine
 
Attending: ___.
 
Chief Complaint:
rash, fever, chills
 
Major Surgical or Invasive Procedure:
LP

 
History of Present Illness:
___ year old gentleman with history of epilepsy, thalassemia, 
recent diagnosis of SIBO started on rifaximin last week, 
presenting with new rash, fevers and chills. 

He reports having intermittent night sweats as early as ___. 
Last week his ___ old son had flu like symptoms a few days 
after getting a flu shot, and this past ___eveloped fevers, chills, and nasal congestion. Over the week 
the fevers have undulated, he has been increasingly sweaty, had 
painful sore throat and reports sputum of varying colors, 
intermittent rigors, increasing fatigue, congestion, hypersomnia 
(sleeping 20 hours a day since ___, and decreased appetite. 
The patients wife notes she has increasingly had to help him 
with small tasks and he is increasingly "out of it" for ___ 
days.

On ___ evening, the patients wife noticed he was developing 
a rash on his arms and legs. Rash is not pruritic or 
uncomfortable. No recent outdoor hiking, no recent travel, no 
exposure to homeless population/incarceration. No other sick 
contacts with similar rash. Took extra strength tylenol and 
Dayquil with little benefit. 

Out of concern for SJS (anti-epileptics) patient presented to 
PCP, who recommended patient present to ED. 

In ED noted to have mild anemia, hyponatremia, normal LFTs. 
Received 1L IVF, dermatology consults. LP done showing CSF with 
1 WBC, 0 PMNs, normal glucose. He was admitted for evaluation of 
night sweats, ongoing fevers, altered mental status, and new 
rash.

Recently last month changed from vimpat to Onfi. Patient tells 
me he decreased him onfi to 10mg BID starting ___ for a few 
days because of fatigue and was initially resistant to 
increasing it, wanted to continue it at this lower dose because 
his neurologist said it was OK to do via email. We discussed 
increased risk of seizures and weighing risks and benefits of 
seizures vs fatigue (why he decreased the onfi), and he said 
initially we could change it "for me," but later agreed to go 
back to his previous dose given hyponatremia and seizure risk.

Weight 168 ___, now ___ per GI note (30 pound weight loss), 
got MRE as part of work-up by outpatient GI, which was normal. 
Patient's wife also reports he has been slurring lately. 

ROS:  No chest pain, SOB, palpitations. No cough, no pleuritic 
pain. No abdominal pain, nausea, vomiting, diarrhea. No dysuria 
or hematuria.  No easy bruising. No new numbness or tingling.
 
Past Medical History:
1.  Seizures for years, Vimpat ___.
2.  T10 herniated disc ___, on NSAIDs.
3.  C. difficile ___- treated in ___
4.  GERD/LPR for years.
5.  Postprandial pain ___.
6.  Colon polyps, question.
7.  Thalassemia.
8.  Lactose intolerant.
9.  IBS/?colon polyp
9.  Urinary frequency ___ 
10. Cough for three months in ___, question asthma.
11.  Weight loss 30lbs ___.  SIBO - dx ___, started on rifaximin
 
Social History:
___
Family History:
Mother aged ___ with seizure disorder, anemia and skin cancers 
which he thinks is a basal cell. Father aged ___ with 
hypercholesterolemia.  Twin brothers each with growth hormone 
deficiency.
 
Physical Exam:
Physical:
vitals: 98.8-110/61-100-18-100RA
Gen: thin gentleman in no respiratory distress, appears drowsy, 
speaks very slowly
HEENT: PERRL, unably to fully abduct L eye (pt states this is 
chronic), oropharynx w/o petechiae/lesions, no OP exudate, 
tongue is very dry
Cardio: RRR, nl s1/s2
Pulm: CTAB
Skin: coalescing violaceous purpura on arms, forearms, and 
dorsum of hand/fingers, sparing palms; nonblanchable and 
non-palpable;
Similar coalescing papules into plaques on shins and upper 
thighs, non blanchable, trunk w/ small pustules (acne?) and no 
Neuro: face symmetric, EOMi except as noted above, no gross 
motor or sensation deficits, did not test gait but in ED was 
unsteady
 
Pertinent Results:
___ 09:23AM BLOOD Neuts-75.0* Lymphs-13.0* Monos-10.8 
Eos-0.3* Baso-0.4 Im ___ AbsNeut-5.55 AbsLymp-0.96* 
AbsMono-0.80 AbsEos-0.02* AbsBaso-0.03
___ 10:43AM BLOOD ___ PTT-28.4 ___
___ 09:23AM BLOOD Glucose-109* UreaN-8 Creat-0.8 Na-129* 
K-3.6 Cl-98 HCO3-19* AnGap-16
___ 09:23AM BLOOD ALT-35 AST-38 AlkPhos-80 TotBili-0.2
___ 09:49AM BLOOD Lactate-1.1
___ 11:30AM URINE Color-Yellow Appear-Clear Sp ___
___ 11:30AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 11:30AM URINE RBC-1 WBC-2 Bacteri-NONE Yeast-NONE Epi-0
___ 02:23PM CEREBROSPINAL FLUID (CSF) WBC-1 RBC-1* Polys-0 
___ ___ 02:23PM CEREBROSPINAL FLUID (CSF) TotProt-26 Glucose-67

MICROBIOLOGY
___ CSF;SPINAL FLUID GRAM STAIN-FINAL; FLUID 
CULTURE-PRELIMINARY EMERGENCY WARD 
___ URINE URINE CULTURE-PENDING EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
EMERGENCY WARD 

CXR ___
IMPRESSION: No acute cardiopulmonary abnormality. 

CT HEAD ___
IMPRESSION: No acute intracranial abnormalities.  Mild 
cerebellar atrophy.
.
FLU negative 
 
Brief Hospital Course:
___ year old gentleman with history of epilepsy, thalassemia, 
recent diagnosis of SIBO started on rifaximin last week, 
presenting with new rash, fevers and chills. 

# Rash/Leukocytoclastic Vasculitis. Evaluated by derm, who felt 
likely leukocytoclastic vasculitis, not SJS/TEN. Primary 
cutaneous LCV is often idiopathic, but could also be ___ viral 
illness or antibiotics (recently started on rifaximin a week 
prior, brief literature review does not reveal a common 
association). As there is currently no organ involvement 
(creatinine normal, normal u/a, normal LFTs), could consider 
systemic steroid treatment.  Infectious work up performed 
including Flu, HIV, HCV, EBV/CMV all negative to date Treated 
supportively with triamcinolone cream
- HCV, EBV,CMV pending
- Trial of triamcinolone cream
- Dermatology referral if no improvement

# Fever, chills - likely viral syndrome given recent illness 
with son. No known tick exposure. CSF appears benign but will 
f/u cultures.  Provided supportive care.  Flu negative
- Recommended ENT referral for possible chronic sinusitis 
symptoms

# Acute encephalopathy. CSF reassuring and does not appear 
related to bacterial meningitis and given 1 WBC, unlikely viral 
encephalitis either. Appears to be more toxic/metabolic in the 
setting of fevers, deconditioning, hyponatremia, possibly with 
contribution from clobazam to mild lethargy. Repeat gait testing 
in AM, f/u infectious work-up, held trospium but resumed on 
discharge.

# Hyponatremia - Patient appears very volume depleted on exam, 
in setting of known poor PO intake and recent fevers is likely 
hypovolemic hyponatremia as opposed to tickborne illness or 
other process, no known SIADH history. Trend Na, give 2L LR, add 
on urine lytes to confirm.  This improved with IV fluids.

# Epilepsy. Continued TEGretol XR 400 mg oral QAM, TEGretol XR 
(carBAMazepine) 800 mg oral QHS (cannot substitute per 
wife/patient), ___ 500 mg PO QHS, Clobazam 20 mg PO BID.

# GERD - continued nexium BID

# Anemia, thalassemia. Ranges from 38-45 in the past, currently 
36, unclear if myelosuppression in setting of viral illness, ? 
parvovirus (no joint pains), acute blood loss anemia, though no 
obvious source of bleeding. Check stool guaiac x1 but unlikely 
to change inpatient management. Remained stable

# Urinary frequency - held trospium as anti-cholinergic effect 
could worsen encephalopathy.

# SIBO - Received 1 week rifaximin of 14d course, held rifaximin 
and sucralfate given above, counseled patient to avoid rifaximin 
in the future or discuss with his GI as this may have 
contributed to LCV

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 4 mg PO Q8H:PRN nausea/vomiting 
2. TEGretol XR (carBAMazepine) 400 mg oral QAM 
3. TEGretol XR (carBAMazepine) 800 mg oral QHS 
4. Zonisamide 500 mg PO QHS 
5. trospium 20 mg oral BID 
6. Ranitidine 150 mg PO QHS 
7. Multivitamins 1 TAB PO DAILY 
8. esomeprazole magnesium 40 mg oral BID 
9. Clobazam 20 mg PO BID 
10. Sucralfate 1 gm PO TID W/MEALS 20 min before meals 
11. Rifaximin 550 mg PO TID 

 
Discharge Medications:
1. Clobazam 20 mg PO BID 
2. Esomeprazole Magnesium 40 mg ORAL BID 
3. Multivitamins 1 TAB PO DAILY 
4. Ondansetron 4 mg PO Q8H:PRN nausea/vomiting 
5. Ranitidine 150 mg PO QHS 
6. TEGretol XR (carBAMazepine) 400 mg oral QAM 
7. TEGretol XR (carBAMazepine) 800 mg ORAL QHS 
8. Zonisamide 500 mg PO QHS 
9. trospium 20 mg oral BID 
10. Acetaminophen ___ mg PO Q6H:PRN pain, fever 
do not take more than 3 grams per day 
11. Sucralfate 1 gm PO TID W/MEALS 20 min before meals 
12. Triamcinolone Acetonide 0.1% Cream 1 Appl TP TID 
to rash if it becomes itchy 
RX *triamcinolone acetonide 0.1 % apply to affected area, thin 
coat twice a day Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Leukocytoclastic vasculitis/Rash
Fever, presumed viral syndrome
Acute encephalopathy
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with fever, sore throat, and rash a well as 
chronic sore throat.  The cause of this is not entirely clear 
but felt to be due to a likely viral infection.  Several tests 
were performed and are negative thus far.  It is also possible 
that your rash was caused by the Rifaximin you were taking, and 
this has been held for now.

You will need to follow up closely with your PCP for ongoing 
care and evaluation, and we recommend ENT follow up as well for 
your chronic sinus symptoms.  If your rash does not resolve in 
the next few weeks, we recommend dermatology follow up as well.
 
Followup Instructions:
___